US08349851B2
Preparation of (4-fluorophenyl)(7-methoxy-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanone
To ethyl 7-methoxy-4-(5-methyl-1H-pyrazol-3-ylamino)quinazoline-2-carboxylate (379 mg, 1.16 mmol) in dry DMA (16 mL) cooled in a −30° C. bath was added dropwise 1N 4-fluorophenylmagnesium bromide in THF (4.05 mL, 4.05 mmol). After 4 h the reaction mixture was quenched by addition of a saturated ammonium chloride solution. The solution was concentrated and H2O was added. The precipitate was washed with water and diethyl ether to give a yellow solid (415 mg, 95%). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.18 (br. s., 3 H) 3.92 (br. s., 3 H) 6.48 (br. s., 1 H) 7.27 (br. s., 2 H) 7.39 (br. s., 2 H) 8.07 (br. s., 2 H) 8.62 (br. s., 1 H) 10.50 (br. s., 1 H) 12.15 (br. s., 1 H) LC-MS (ESI) m/z 378 (M+H)+.

reactant | ethyl 7-methoxy-4-(5-methyl-1H-pyrazol-3-ylamino)quinazoline-2-carboxylate | 1.16 mmol, 379 mg | COC1=CC=C2C(=NC(=NC2=C1)C(=O)OCC)NC1=NNC(=C1)C | C16H17N5O3
reactant | 4-fluorophenylmagnesium bromide | 1N | FC1=CC=C(C=C1)[Mg]Br
reactant | THF | 4.05 mmol, 4.05 mL | C1CCOC1 | C4H8O
solvent | DMA | 16 mL | CC(=O)N(C)C | C4H9NO
product | (4-fluorophenyl)(7-methoxy-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)methanone | 415 mg, 95% | FC1=CC=C(C=C1)C(=O)C1=NC2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)OC | C20H16FN5O2
